US08124764B2
N-(2-Amino-phenyl)-2-fluoro-4-[4-(2-methyl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzamide
To a stirred suspension of 4-amino-2-fluoro benzoic acid (3.0 g, 19.30 mmol) and the mixture of conc. HCl/water (2.7 mL/16.5 mL) was added cyanamide (1.86 g, 44.4 mmol) at room temperature. The reaction mixture was heated at 100° C. for 7 hours and then allowed to stand at room temperature (without stirring) for 16 hours. The precipitated solid was filtered off, washed with water and dried under vacuum to afford Int-1 (3.0 g, 78%) as a salt. Mass (m/z): 198 [M++1]. 1H NMR (200 MHz, dmso-d6): δ 7.99 (brs, 5H), 7.70 (t, J=8.4 Hz, 1H), 6.91-6.85 (m, 2H). To a stirred suspension of Int-1 (3.0 g, 15.2 mmol) in methanol (15 mL) was added acetyl chloride (16.2 mL, 22.8 mmol) drop wise at 0° C. over a period of 20 minutes. The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was neutralized using NaHCO3 at 0° C. The precipitated solid was filtered off and the filtrate was concentrated under vacuum to get crude compound. The crude compound was washed with EtOAc (100 mL) to afford Int-2 (2.8 g, 87%) as white solid. Mass (m/z): 212 [M++1]. 1H NMR (200 MHz, dmso-d6): δ 8.16 (brs, 5H), 7.89 (t, J=8.6 Hz, 1H), 7.23-7.12 (m, 2H), 3.8 (s, 3H). To a stirred solution of Int-3 (1.0 g, 4.30 mmol), guanidine ester-2 (2.0 g, 9.6 mmol) in DMF (7.0 mL) was added K2CO3 (1.5 g, 10.9 mmol) at room temperature. The reaction mixture was heated at 130° C. for 16 hours. After the reaction completion, the reaction mixture was allowed to room temperature, poured into ice cold water (40 mL) and stirred for 30 minutes. The precipitated solid was filtered off, washed with water (3×5 mL) and dried under vacuum to get crude product. The crude material was purified by silica gel column chromatography eluting with 1% MeOH/DCM to afford Int-4 (0.7 g, 42%) as solid. Mass (m/z): 378 [M++1]. 1H NMR (200 MHz, dmso-d6): δ 10.31 (brs, 1H), 9.73 (d, J=6 Hz, 1H), 8.63 (d, J=5.6 Hz, 1H), 7.93-7.84 (m, 3H), 7.63-7.83 (m, 3H), 7.24 (d, J=5.4 Hz, 1H), 7.18-7.01 (m, 1H). To a stirred solution of Int-4 (0.7 g, 1.85 mmol) in methanol (5.0 mL), THF (5.0 mL) and water (3.0 mL) was added lithium hydroxide monohydrate (0.23 g, 5.57 mmol) at room temperature and then stirred for 16 hours. The volatiles were concentrated under vacuum. The residue was diluted with water (30 mL) and acidified to about pH 5 using 1 N HCl at 0° C. and stirred further for 30 minutes. The precipitated solid was filtered off, washed with water (2×30 mL) and dried under vacuum to afford Int-5 (0.559 g, 82%) as solid. Mass (m/z): 363 [M++1]. 1H NMR (200 MHz, dmso-d6): δ 10.47 (brs, 1H), 9.79 (d, J=6.8 Hz, 1H), 8.76 (d, J=5.6 Hz, 1H), 7.96-7.78 (m, 4H), 7.55 (d, J=8.4 Hz, 1H), 7.46 (t, J=5.4 Hz, 1H), 7.33 (d, J=5.6 Hz, 1H). To a stirred suspension of Int-5 (0.6 g, 1.65 mmol) in DMF (8 mL) was added EDCI (0.697 g, 3.60 mmol), HOBt (0.222 g, 1.65 mmol) and N-ethyldiisopropylamine (0.74 mL, 4.1 mmol) at 0° C. under inert atmosphere. After being stirred for 15 minutes at the same temperature, NH2OTHP (0.386 g, 3.3 mmol) was added to the reaction mixture at 0° C. The reaction mixture was allowed to warm to room temperature and stirred further for 16 hours. Reaction mixture was diluted with water (50 mL) and stirred for 30 minutes. The aqueous layer was extracted with DCM (3×50 mL) and the combined organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude material was purified over silica gel column chromatography eluting with 2.5% MeOH/DCM to afford Int-6 (0.395 g, 51%) as off-white solid.

reactant | 4-amino-2-fluoro benzoic acid | 19.30 mmol, 3.0 g | NC1=CC(=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | HCl water | 2.7 mL | Cl.O
reactant | cyanamide | 44.4 mmol, 1.86 g | N#CN | CH2N2
reactant | acetyl chloride | 22.8 mmol, 16.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | 10.9 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | lithium hydroxide monohydrate | 5.57 mmol, 0.23 g | O.[OH-].[Li+]
reactant | EDCI | 3.60 mmol, 0.697 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.65 mmol, 0.222 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyldiisopropylamine | 4.1 mmol, 0.74 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NH2OTHP | 3.3 mmol, 0.386 g | NOC1OCCCC1 | C5H11NO2
solvent | methanol | 15 mL | CO | CH4O
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | methanol | 5.0 mL | CO | CH4O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | water | 3.0 mL | O | H2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-(2-Amino-phenyl)-2-fluoro-4-[4-(2-methyl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzamide | NC1=C(C=CC=C1)NC(C1=C(C=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2)C)F)=O | C25H20FN7O
